US07902356B2
2-(4-Chloro-phenyl)-5-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one
Mix 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid [3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide (80 mg, 0.16 mmol) and Dess-Martin periodinane (70 mg, 0.1 6 mmol) in CH2Cl2 and stir at RT for 48 h. Dilute the mixture with aqueous 1 N NaOH and extract with CH2Cl2. Dry, filter, and concentrate the organic solution. Purify the crude material by flash chromatography, using a gradient of 100% EtOAc to 12% 2 N NH3/MeOH in EtOAc, to give the title compound (12 mg, 16%). MS (ES+) 482.0 (M+1)+. 1H NMR (400 MHz, DMSO-d6): δ 8.01 (d, 2H, J=8.8 Hz), 7.46 (d, 2H, J=8.3 Hz), 7.40 (d, 1H, J=7.0 Hz), 7.34 (s, 1H), 6.89-6.99 (m, 3H), 4.20 (t, 2H, J=6.4 Hz), 3.86 (s, 3H), 2.96 (t, 2H, J=6.4 Hz), 2.64 (s, 4H), 1.80 (m, 4H).

reactant | 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid [3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide | 0.16 mmol, 80 mg | COC=1C=C(C=CC1OCCN1CCCC1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CCO | C25H28ClN3O4S
reactant | Dess-Martin periodinane | 6 mmol, 70 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N | [OH-].[Na+]
product | 2-(4-Chloro-phenyl)-5-[3-methoxy-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one | 12 mg, 16% | ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)OCCN1CCCC1)OC)=O | C25H24ClN3O3S
